US04775677
[3-Octyl-2-(octylimino)-4-oxo-5-thiazolidinylidene]acetic acid
A mixture of acetylenedicarboxylic acid (7.2 g, 60 mmoles) and N,N'-dioctylthiourea (18 g, 60 mmoles) in methanol (300 mls) is stirred at room temperature for 16 hours. The solvent is removed under reduced pressure to leave a syrupy residue which eventually crystallizes. Recrystallization from acetonitrile gave the product (18 g), mp 57°-61° C.

reactant | acetylenedicarboxylic acid | 60 mmoles, 7.2 g | C(#CC(=O)O)C(=O)O | C4H2O4
reactant | N,N'-dioctylthiourea | 60 mmoles, 18 g | C(CCCCCCC)NC(=S)NCCCCCCCC | C17H36N2S
solvent | methanol | 300 mls | CO | CH4O
product | [3-Octyl-2-(octylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 18 g | C(CCCCCCC)N1C(SC(C1=O)=CC(=O)O)=NCCCCCCCC | C21H36N2O3S
